US04101661
From 4.4 g. of 6-[4-(1-pyrrolidinylsulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid in 150 ml. of methylene chloride, 1.6 ml. of triethylamine, 1.45 ml. of trimethylsilyl chloride and 1.7 ml. of thionyl chloride, following the procedure of a) above, there is obtained 6-[4-(1-pyrrolidinylsulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride.

reactant | 6-[4-(1-pyrrolidinylsulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C16H16N2O5S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-[4-(1-pyrrolidinylsulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)C=1NC(C(CCl)=CC1)=O | C16H17ClN2O3S
